US04788206
As in Example 115, a solution of (E)-5,5-bis [(1,1'-biphenyl)-4-yl]-2,4-pentadienoic acid (0.673 g) and 4-nitrophenol (0.256 g) in dichloromethane (7 mL) was treated with 1,3-dicyclohexylcarbodiimide (0.345 g). The mixture was stirred at room temperature for 1.5 hours. The usual work up furnished 0.88 g of (E)-5,5-bis[(1,1'-biphenyl)-4-yl]-2,4-pentadienoic acid 4-nitrophenyl ester.

reactant | (E)-5,5-bis [(1,1'-biphenyl)-4-yl]-2,4-pentadienoic acid | 0.673 g | C1(=CC=C(C=C1)C(=C/C=C/C(=O)O)C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C29H22O2
reactant | 4-nitrophenol | 0.256 g | [N+](=O)([O-])C1=CC=C(C=C1)O | C6H5NO3
reactant | 1,3-dicyclohexylcarbodiimide | 0.345 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | dichloromethane | 7 mL | ClCCl | CH2Cl2
product | (E)-5,5-bis[(1,1'-biphenyl)-4-yl]-2,4-pentadienoic acid 4-nitrophenyl ester | 0.88 g | [N+](=O)([O-])C1=CC=C(C=C1)OC(\C=C\C=C(C1=CC=C(C=C1)C1=CC=CC=C1)C1=CC=C(C=C1)C1=CC=CC=C1)=O | C35H25NO4
